US07005431B2
c) 2-Methyl-5-(3-trifluoromethylimidazo[1,2-b][1,2,4]triazin-7-yl)phenylamine
7-(4-Methyl-3-nitrophenyl)-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine (0.27 g, 0.83 mmol) was dissolved in EtOH/1,4-dioxane (20 ml, 1:1) at ambient temperature under an atmosphere of nitrogen and tin(II) chloride (0.80 g, 4.13 mmol) added. This stirred mixture was warmed at 50° C. for 6 h. The solvents were removed in vacuo, ice-water/NaHCO3 was added and extracted with dichloromethane. These extracts were washed with water and saturated brine then dried (MgSO4), filtered and concentrated in vacuo. Purification by chromatography (silica gel, dichloromethane) gave 0.24 g of the title compound as a red solid: 1H NMR (400 MHz, CDCl3) δ 2.26 (3H, s), 3.75–3.85 (2H, br), 7.22 (1H, d, J 7.8), 7.40 (1H, dd, J 1.7, 7.8), 7.43 (1H, d, J 1.7), 8.55 (1H, s), 8.76 (1H, s); MS (ES+) m/z 294 [M+H]+.

reactant | 7-(4-Methyl-3-nitrophenyl)-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 0.83 mmol, 0.27 g | CC1=C(C=C(C=C1)C1=CN=C2N1N=CC(=N2)C(F)(F)F)[N+](=O)[O-] | C13H8F3N5O2
reactant | tin(II) chloride | 4.13 mmol, 0.80 g | [Sn](Cl)Cl
solvent | EtOH 1,4-dioxane | 20 ml | CCO.O1CCOCC1
product | 2-Methyl-5-(3-trifluoromethylimidazo[1,2-b][1,2,4]triazin-7-yl)phenylamine | 0.24 g | CC1=C(C=C(C=C1)C1=CN=C2N1N=CC(=N2)C(F)(F)F)N | C13H10F3N5
